US04859684
A mixture of 2.99 parts of 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine, 50 parts of trimethoxymethane and 2.4 parts of formic acid was stirred for 16 hours at room temperature. The reaction mixture was evaporated. The residue was dissolved in hydrochloric acid solution 2N. This solution was treated with ammonia and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 1.8 parts (58.2%) of 5-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1H-benzimidazole; mp. 108.2° C. (compound 93).

reactant | 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine | ClC=1C=C(C=CC1)C(C=1C=C(C(=CC1)N)N)N1C=NC=C1 | C16H15ClN4
reactant | trimethoxymethane | COC(OC)OC | C4H10O3
solvent | formic acid | C(=O)O | CH2O2
product | 5-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1H-benzimidazole | 58.2% | ClC=1C=C(C=CC1)C(C1=CC2=C(NC=N2)C=C1)N1C=NC=C1 | C17H13ClN4
